US07964756B2
Pyridine and excessive amount of chloro-n-butane (molar ratio: 1/1.05) were reacted at 70° C. with stirring for 48 hours. Excessive of reactants were removed by rotary evaporation, thereby N-butylpyridinium chloride was obtained. The obtained N-butylpyridinium chloride was further added into an aqueous solution with excessive amount of potassium hexafluorophosphate (molar ratio: 1/1.1) and stirred for 24 hours. After settlement, a product was separated from the reactant solution. After liquid separation, the product was washed with water until no chlorine ion was detected by a silver nitrate solution (0.1 mol/L). A product of N-butylpyridinium hexafluorophosphate was obtained after removing methylene dichloride in the product by rotary evaporation and drying.

reactant | N-butylpyridinium chloride | [Cl-].C(CCC)[N+]1=CC=CC=C1
reactant | potassium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[K+]
product | N-butylpyridinium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C(CCC)[N+]1=CC=CC=C1 | InChI=1S/C9H14N.F6P/c1-2-3-7-10-8-5-4-6-9-10;1-7(2,3,4,5)6/h4-6,8-9H,2-3,7H2,1H3;/q+1;-1
